US04801593
2-phenylethanol (48.8 g,) and paraformaldehyde (15 g,) were mixed and stirred on an ice bath while a stream of hydrogen chloride gas was passed vigorously through the suspension for 2 hr. The ice-bath was removed and the flow of hydrogen chloride was decreased. The mixture was stirred at room temperature for a further 4 hr. during which time the mixture cleared, after which the reaction mixture stood overnight at room temperature. Aqueous sodium hydroxide solution (100 g/100 ml) was added cautiously, with stirring to the reaction mixture over a period of 30 min. The mixture was heated at reflux for 2 hr., cooled and the oil extracted with ether (3×100 ml). The ether layer was dried (magnesium sulphate) and the solvent removed in vacuo. The residue was distilled under vacuum to give isochroman (45.7 g, b.pt 84.5°-85°/8 mmHg)

reactant | 2-phenylethanol | 48.8 g | C1(=CC=CC=C1)CCO | C8H10O
reactant | paraformaldehyde | 15 g | C=O | CH2O
reactant | hydrogen chloride | Cl | ClH
product | isochroman | 45.7 g | C1OCCC2=CC=CC=C12 | C9H10O
